US06489487B1
To a solution of 626 mg (5.44 mmol) of 5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one (said compound is a known compound described in J. Chem. Soc. Perkin I, 2645 (1973) and this was produced according to the method described in this literature. In this literature, said compound is named as 3-methoxy-1,2,4-triazol-5(4H)-one) in 7 ml of dry acetonitrile was added 0.79 g (5.71 mmol) of potassium carbonate. To the mixture was added dropwise a solution of 1.42 g (5.44 mmol) of 5-phenyl-2-methylbenzylbromide in 20 ml of dry acetonitrile at 55° C. After the mixture was stirred at the same temperature for additional 5 hours, water was added to the reaction mixture and it was extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated. To the resultant solid residue (1.51 g) was added tert-butyl methyl ether and the solid was washed and ice-cooled. The solid was collected by filtration and dried to obtain 0.72 g (2.44 mmol) of 5-methoxy-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one as white powder.

reactant | 5-methoxy-2,4-dihydro-3H-1,2,4-triazol-3-one | 5.44 mmol, 626 mg | COC=1NC(NN1)=O | C3H5N3O2
reactant | 3-methoxy-1,2,4-triazol-5(4H)-one | COC1=NNC(N1)=O | C3H5N3O2
reactant | potassium carbonate | 5.71 mmol, 0.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-phenyl-2-methylbenzylbromide | 5.44 mmol, 1.42 g | C1(=CC=CC=C1)C=1C=CC(=C(CBr)C1)C | C14H13Br
reactant | water | O | H2O
solvent | acetonitrile | 7 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-methoxy-4-(2-methyl-5-phenylbenzyl)-2,4-dihydro-3H-1,2,4-triazol-3-one | 2.44 mmol, 0.72 g | COC=1N(C(NN1)=O)CC1=C(C=CC(=C1)C1=CC=CC=C1)C | C17H17N3O2
